US08124764B2
N-(2-Amino-phenyl)-4-{4-[7-(2-dimethylamino-ethoxy)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-pyrimidin-2-ylamino}-benzamide
Int-1 (1.99 g, 0.016 mmol) and Int-2 (1.85 mL, 0.016 mol) were dissolved in NMP (15 mL) and the resulting mixture was heated under microwave condition with stirring at 125° C. for 40 minutes. It was then diluted with EtOAc and washed with saturated aqueous NaHCO3 solution. The organic layers were then combined and dried with MgSO4. Filtration and concentration gave Int-3 (2.92 g). MS m/z: 209 (MH+). Crude Int-3 (2.92 g) and DMF-DMA (5 mL) were dissolved in DMF (10 mL), and heated under microwave condition with stirring at 160° C. for 20 minutes. The precipitate formed was then collected by filtration to afford Int-4 (1.53 g, 37% for two steps). MS m/z: 264 (MH+). A mixture of Int-4 (1.53 g, 5.8 mmol), Int-5 (1.670 g, 8.6 mol) and DBU (1.72 mL, 11.6 mol) in DMF (15 mL) was heated under microwave condition with stirring at 160° C. After 30 minutes, water was added. The precipitate formed was collected by filtration and washed with water to afford Int-6 (1.20 g, 53%). MS m/z: 394 (MH+). A solution of Int-6 (0.15 g, 0.4 mmol) and dimethylaminoethanol (0.5 mL) in NMP (4 mL) was treated with KOtBu (0.200 g, 1.78 mmol) and heated under microwave condition with stirring at 170° C. After 10 minutes, water was added to the reaction mixture and acidified to about pH 4 with 1N HCl. The precipitate formed was collected by filtration to afford Int-7 (0.13 g, 80%). MS m/z: 433 (MH+). Int-7 (0.13 g, 0.3 mmol) was coupled with phenylenediamine (0.035 g, 0.3 mmol) in the presence of HATU (0.15 g, 0.4 mmol) and triethylamine (0.12 mL, 0.9 mmol) in DMF (2 mL) and then purified by preparative HPLC to afford the title compound. MS (C29H30N8O2) m/z: 523 (MH+). NMR 1H NMR (dmso-d6): δ 10.12 (s, 1H), 9.74 (s, 1H), 9.64 (d, J=7.2 Hz, 1H), 8.67 (d, J=5.2 Hz, 1H), 7.94 (d, J=8.8 Hz, 2H), 7.86 (d, J=8.8 Hz, 2H), 7.25 (s, 1H), 7.20 (d, J=5.2 Hz, 2H), 7.05 (m, 2H), 6.95 (m, 1H), 6.82 (m, 1H), 4.54 (s, 2H), 3.57 (s, 2H), 2.85 (s, 6H), 2.66 (s, 3H), 2.49 (s, 2H).

reactant | DMF-DMA | 5 mL | CN(C)C(OC)OC | C5H13NO2
reactant | DBU | 11.6 mol, 1.72 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | dimethylaminoethanol | 0.5 mL | CN(C)CCO | C4H11NO
reactant | KOtBu | 1.78 mmol, 0.200 g | CC(C)(C)[O-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | phenylenediamine | 0.3 mmol, 0.035 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | HATU | 0.4 mmol, 0.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.9 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | NMP | 15 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(2-Amino-phenyl)-4-{4-[7-(2-dimethylamino-ethoxy)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-pyrimidin-2-ylamino}-benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC(=C2)OCCN(C)C)C)=O | C29H30N8O2
